US07432260B2
{2-Chloro-5-[4-(2,4-dimethyl-thiazol-5-yl)-pyrimidin-2-ylamino]-phenyl}-methanol [72].
By condensation of 3-dimethylamino-1-(2,4-dimethyl-thiazol-5-yl)-propenone and N-(4-chloro-3-hydroxymethyl-phenyl)-guanidine nitrate. Yellow solid. Mp 245-246° C. Anal. RP-HPLC: tR=14.6 min (10-70% MeCN, purity>95%). 1H-NMR (DMSO-D6) δ: 2.62 (s, 3H, CH3), 2.63 (s, 3H, CH3), 4.53 (d, 2H, J=5.5 Hz, CH2), 5.34 (m, 1H, OH), 7.08 (d, 1H, J=5.5 Hz, pyrimidinyl-H), 7.29 (m, 1H, Ph-H), 7.73 (m, 1H, Ph-H), 7.94 (s, 1H, Ph-H), 8.51 (d, 1H, J=5.5 Hz, pyrimidinyl-H), 9.78 (s, 1H, NH). MS (ESI+) m/z 347.11 [M+H]+ (C16H15ClN4OS requires 346.84).

reactant | 3-dimethylamino-1-(2,4-dimethyl-thiazol-5-yl)-propenone | CC1=C(SC(=N1)C)/C=C/C(=O)N(C)C | C10H14N2OS
reactant | N-(4-chloro-3-hydroxymethyl-phenyl)-guanidine nitrate | [N+](=O)(O)[O-].ClC1=C(C=C(C=C1)NC(=N)N)CO
solvent | MeCN | CC#N | C2H3N
product | {2-Chloro-5-[4-(2,4-dimethyl-thiazol-5-yl)-pyrimidin-2-ylamino]-phenyl}-methanol | ClC1=C(C=C(C=C1)NC1=NC=CC(=N1)C1=C(N=C(S1)C)C)CO | C16H15ClN4OS
